US05677454
To a solution of 100 mg of 2-phenyl-4-methylpyridine in 2 mL of carbon tetrachloride was added 300 mg of sodium carbonate and 100 mg of bromine. The reaction mixture was stirred and irradiated with a 500 W lamp for 1 h, filtered and the solvent removed by evaporation under reduced pressure to yield 2-phenyl-4-bromomethylpyridine which was used in the next step without further purification or characterization.

reactant | 2-phenyl-4-methylpyridine | 100 mg | C1(=CC=CC=C1)C1=NC=CC(=C1)C | C12H11N
reactant | sodium carbonate | 300 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | bromine | 100 mg | BrBr | Br2
solvent | carbon tetrachloride | 2 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-phenyl-4-bromomethylpyridine | C1(=CC=CC=C1)C1=NC=CC(=C1)CBr | C12H10BrN
